US07462635B2
A mixture of 3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl methanesulfonate (395 mg), methyl 4-hydroxybenzoate (225 mg), potassium carbonate (276 mg) and N,N-dimethylformamide (10 ml) was stirred at 90° C. for 2 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained yellow oily substance was dissolved in tetrahydrofuran (30 ml), lithium aluminum hydride (80 mg) was added little by little at 0° C., and stirring was carried out at 0° C. for 1 hour. To the reaction mixture, sodium sulfate decahydrate (1.0 g) was added, and stirring was carried out at room temperature for 30 minutes, after which filtration was carried out. The filtrate was concentrated and the residue was purified by silica gel column chromatography. From the fraction eluted with ethyl acetate, 4-({3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl}oxy)benzyl alcohol (304 mg, yield 72%) was obtained as a colorless oily substance.

reactant | 3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl methanesulfonate | 395 mg | CS(=O)(=O)OCCCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl | C17H18ClN3O4S
reactant | methyl 4-hydroxybenzoate | 225 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-({3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl}oxy)benzyl alcohol | 304 mg, yield 72% | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=CC=C(CO)C=C1)N1C(=NC=C1)C | C23H22ClN3O3
